US07968724B2
Preparation of Benzoic Acid 2-(3,5-dichloro-pyridin-4-yl)-1-(4-methoxy-8-amino-dibenzofuran-1-yl)-vinyl Ester (Compound 4)
Benzoic acid 2-(3,5-dichloro-pyridin-4-yl)-1-(4-methoxy-8-nitro-dibenzofuran-1-yl)-vinyl ester (675 mg, 1.26 mmoles) is dissolved in tetrahydrofuran (30 mL). Tin dichloride (SnCl2*2H2O, 2.84 g, 12.6 mmoles) is added and the resulting mixture is stirred at room temperature for 24 hours and at 40° C. for 3 hours. The mixture is diluted with water and a saturated NaHCO3 solution and extracted with DCM; the combined organic layers are dried over sodium sulphate and evaporated to dryness. The crude (468 mg) is purified by preparative HPLC to yield 80 mg of pure product.

reactant | Benzoic acid 2-(3,5-dichloro-pyridin-4-yl)-1-(4-methoxy-8-nitro-dibenzofuran-1-yl)-vinyl ester | 1.26 mmoles, 675 mg | ClC=1C=NC=C(C1C=C(C1=CC=C(C=2OC3=C(C21)C=C(C=C3)[N+](=O)[O-])OC)OC(C3=CC=CC=C3)=O)Cl | C27H16Cl2N2O6
reactant | Tin dichloride | 12.6 mmoles, 2.84 g | [Sn](Cl)Cl
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Benzoic Acid 2-(3,5-dichloro-pyridin-4-yl)-1-(4-methoxy-8-amino-dibenzofuran-1-yl)-vinyl Ester | 80 mg | ClC=1C=NC=C(C1C=C(C1=CC=C(C=2OC3=C(C21)C=C(C=C3)N)OC)OC(C3=CC=CC=C3)=O)Cl | C27H18Cl2N2O4
